US07361763B2
65 mg (0.17 mmol) of 1-(2-methoxy-ethoxymethyl)-3-(2-methoxy-phenyl)-5-morpholin-4-yl-1H-pyrrolo[2,3-b]pyridine was dissolved in a mixture of 3 ml of ethanol and 2 ml of water. 500 μl of formic acid was added and the mixture heated to 65° C. for 16 h and then irradiated in the microwave to 150° C. for 40 min. The resulting mixture was neutralized by addition of sodium bicarbonate and water and the crude distributed between ethyl acetate and brine. The aqueous phase was extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulfate and evaporated to afford 47 mg (0.15 mmol, 94% yield) of 3-(2-methoxy-phenyl)-5-morpholin-4-yl-1H-pyrrolo[2,3-b]pyridine. 1H-NMR (d6-DMSO): δ11.58 (s, 1H), 8.11 (d, J=2.5 Hz, 1H), 7.59 (d, J=2.4 Hz, 1H), 7.51 (dd, J=1.4 Hz, 7.3 Hz, 1H), 7.46 (s, 1H), 7.27 (ddd, J=1.5 Hz, 8.8 Hz, 1H), 7.11 (d, J=8.3 Hz, 1H), 7.02 (dd(d), J=1.5 Hz, 7.3 Hz, 1H), 3.82 (s, 3H), 3.77 (m, 4H), 3.07 (m, 4H); MS: m/z 310 [MH+].

reactant | 1-(2-methoxy-ethoxymethyl)-3-(2-methoxy-phenyl)-5-morpholin-4-yl-1H-pyrrolo[2,3-b]pyridine | 0.17 mmol, 65 mg | COCCOCN1C=C(C=2C1=NC=C(C2)N2CCOCC2)C2=C(C=CC=C2)OC | C22H27N3O4
reactant | formic acid | 500 μl | C(=O)O | CH2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 3-(2-methoxy-phenyl)-5-morpholin-4-yl-1H-pyrrolo[2,3-b]pyridine | 0.15 mmol, 47 mg, 94% yield | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)N2CCOCC2 | C18H19N3O2
